US05795507
Preparation of colored methylolmelamine solution.
Formaldehyde (50%, 12.0 g, 0.2 mol) was added to a mixture of melamine (12.6 g, 0.1 mol) and water (40 ml) with stirring. The pH of the mixture was adjusted to 9.0-9.2 by addition of NaOH (0.5N). The mixture was heated to 70° C. and a dyestuff (Direct red 252 mg, 2000 ppm based on melamine) was added to give a colored methylolmelaminersolution. In this procedure, other dyestuffs can be used such as direct dyes, fluorescent dyes, dispersion dyes, and mixtures thereof. See Table 1.

reactant | Formaldehyde | 0.2 mol, 12.0 g | C=O | CH2O
reactant | melamine | 0.1 mol, 12.6 g | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | NaOH | 0.5N | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | methylolmelamine | C(O)NC1=NC(=NC(=N1)N)N | C4H8N6O
